US04210659
A mixture consisting of 4.56 gm (0.02 mol) of 1-(2,6-dichloro-phenyl)-2-imino-4-imidazoline and 2.6 ml of ethylene bromide (about 150% of the stoichiometrically required amount) was heated to 140° C. while stirring and was maintained at that temperature for 15 minutes. After cooling, the glassy mass was dissolved in about 1 N hydrochloric acid, and the solution was friactionally extracted with ether at stepwisely increasing pH-values (addition of 2 N sodium hydroxide). Those fractions which contained the reaction product in substantially pure form, as determined by thin-layer chromatography, were combined, dried over anhydrous calcium sulfate and evaporated in vacuo. The residue was further purified by stirring it with acetone and collecting the crystallized product by suction filtration. 0.55 gm (10.8% of theory) of pure 7-(2,6-dichloro-phenyl)-2,3-dihydro-imidazo[1,2-α]imidazole, m.p. 184°-187° C. were obtained.

reactant | 1-(2,6-dichloro-phenyl)-2-imino-4-imidazoline | 0.02 mol, 4.56 gm | ClC1=C(C(=CC=C1)Cl)N1C(NC=C1)=N | C9H7Cl2N3
reactant | ethylene bromide | 2.6 ml | C(CBr)Br | C2H4Br2
solvent | hydrochloric acid | about 1 N | Cl | ClH
product | 7-(2,6-dichloro-phenyl)-2,3-dihydro-imidazo[1,2-α]imidazole | 0.55 gm, 10.8% | ClC1=C(C(=CC=C1)Cl)N1C=CN2C1=NCC2 | C11H9Cl2N3
